US05942617
Production of 7-Benzylguanine Dihydrochloride
Tetraacetylguanosine (0.904 g, 2.00 mmols) was dissolved in 2 ml of acetonitrile, and 0.59 ml (2.48 equivalents) of benzyl bromide were added thereto. The reaction was conducted at 50° C. for 17 hours. After it was identified through HPLC that the starting material disappeared, 5 ml (29.6 equivalents) of conc. hydrochloric acid were added to the reaction solution, and the mixture was stirred at 50° C. for 3 hours. Then, the reaction solution turned black, and the gray solid was precipitated. The temperature was returned to room temperature, and 5 ml of methanol were added to the solid. The slurry was stirred for 20 minutes, and then filtered. The crystals were washed with 10 ml of methanol, and dried at 50° C. under reduced pressure to give 0.690 g of gray crystals in a yield of 57.4%.

reactant | Tetraacetylguanosine | 2.00 mmols, 0.904 g | C(C)(=O)[C@]1([C@]([C@]([C@@](O1)(N1C=NC=2C(=O)NC(N)=NC12)C(C)=O)(O)C(C)=O)(O)C(C)=O)CO | C18H21N5O9
reactant | benzyl bromide | 0.59 ml, 2.48 equivalents | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | 5 ml, 29.6 equivalents | Cl | ClH
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 7-Benzylguanine Dihydrochloride | 0.690 g, yield of 57.4% | Cl.Cl.C(C1=CC=CC=C1)N1C=NC=2N=C(NC(C12)=O)N | InChI=1S/C12H11N5O.2ClH/c13-12-15-10-9(11(18)16-12)17(7-14-10)6-8-4-2-1-3-5-8;;/h1-5,7H,6H2,(H3,13,15,16,18);2*1H
